US07122545B2
To a suspension of 0.19 g of benzoimidazole-2-carboxylic acid (1.0 mmol) in 4 ml DMF was added 0.21 g of CDI (1.3 mmol) and stirred at ambient temperature for 1 h. Then the mixture was refluxed for 30 min. After cooling to ambient temperature, 0.25 g of 2-methoxy-5-morpholin-4-yl-phenylamine (1.2 mmol) was added and the reaction mixture was heated to reflux for 16 h. The mixture was evaporated and the residue taken up in water (40 ml) and extracted 3 times with methylene chloride. The combined organic phases were dried on sodium carbonate, evaporated and the residue was stirred in hot ethyl acetate. After filtration and trying 0.27 g 1H-benzoimidazole-2-carboxylic acid (2-methoxy-5-morpholin-4-yl-phenyl)-amide (63%) were obtained as a yellow solid; M.p.: 236–237° C. 0.2 g of 1H-Benzoimidazole-2-carboxylic acid (2-methoxy-5-morpholin-4-yl-phenyl)-amide (0.71 mmol) was taken up in toluene (15.0 ml) and treated with 0.28 g of Lawesson reagent (0.71 mmol). The reaction mixture was heated to reflux for 2 h. After cooling to ambient temperature, water (25 ml) was added and the mixture was extracted 3 times with ethyl acetate. The combined organic phases were dried on sodium carbonate, evaporated and the residue subjected to column chromatography (silica gel, ethyl acetate/hexanes 1:2, then ethyl acetate). 0.22 g of 1H-Benzoimidazole-2-carbothioic acid (2-methoxy-5-morpholin-4-yl-phenyl)-amide (86%) was obtained as a yellow solid; M.p.: 240–241° C. 0.19 g of 1H-Benzoimidazole-2-carbothioic acid (2-methoxy-5-morpholin-4-yl-phenyl)-amide (0.52 mmol) were taken up in water (5.0 ml) and treated with 0.116 g KOH (2.0 mmol) and 0.68 g of potassium hexacyano ferrate (2.0 mmol) at reflux for 24 h. After cooling to ambient temperature water (10 ml) was added and the mixture was filtered. The residue on the filter was dissolved in methanol and subjected to column chromatography (silica gel, methylene chloride/methanol 99:1). One obtained 0.089 g of 2-(1H-benzoimidazol-2-yl)-4-methoxy-7-morpholin-4-yl-benzothiazole (39%) as a yellow solid; M.p.: 284–286° C.

reactant | 1H-Benzoimidazole-2-carbothioic acid (2-methoxy-5-morpholin-4-yl-phenyl)-amide | 0.52 mmol, 0.19 g | COC1=C(C=C(C=C1)N1CCOCC1)NC(=S)C1=NC2=C(N1)C=CC=C2 | C19H20N4O2S
reactant | KOH | 2.0 mmol, 0.116 g | [OH-].[K+]
solvent | water | 5.0 ml | O | H2O
catalyst | potassium hexacyano ferrate | 2.0 mmol, 0.68 g | [C-]#N.[C-]#N.[C-]#N.[C-]#N.[C-]#N.[C-]#N.[K+].[K+].[K+].[K+].[Fe+6]
solvent | water | 10 ml | O | H2O
product | 2-(1H-benzoimidazol-2-yl)-4-methoxy-7-morpholin-4-yl-benzothiazole | 0.089 g, 39% | N1C(=NC2=C1C=CC=C2)C=2SC1=C(N2)C(=CC=C1N1CCOCC1)OC | C19H18N4O2S
